US07414076B2
Preparation of 3-ethylamino-1-propanesulfonic acid (Compound CV)
Tetrahydrofuran (THF, 800 mL) was placed a 3 neck 2-L flask (equipped with a condenser) and cooled to 5° C. with an ice-bath. To the cold THF was added aqueous ethylamine (70 wt. % solution in water, 85 mL, 1.07 mol), followed by addition of a cold solution of 1,3-propane sultone (25.08 g, 201 mmol) in THF (100 mL) over 24-min period. The mixture was stirred, while cooled with an ice-bath, for 1 h. The ice-bath was removed and the mixture was stirred at room temperature overnight. It was then heated under reflux for 1 h to distill off the ethylamine. The hot mixture was biphasic. Upon cooling, a solid crystallized at the bottom of the flask. Ether (400 mL) was added and the mixture was cooled to −20° C. The supernatant was decanted. Methanol (about 120 mL) was added to the residue. The mixture was heated to reflux; and complete dissolution of the solid material was achieved. After the solution was cooled to room temperature, precipitates formed. The mixture was cooled in an ice-bath; and the solid material was collected by filtration, rinsed with cold methanol and dried in vacuo (20.66 g, pure by NMR analysis). The solid material was recrystallized from methanol (100 mL). After the mixture was cooled using an ice-bath, the solid was collected by filtration, rinsed with cold methanol, and dried in a vacuum oven at 40° C. Compound CV was obtained as white fine needles (19.12 g, 57%). The 1H and 13C NMR were consistent with the structure.

reactant | ethylamine | 1.07 mol, 85 mL | C(C)N | C2H7N
reactant | 1,3-propane sultone | 201 mmol, 25.08 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | 3-ethylamino-1-propanesulfonic acid | 19.12 g, 57% | C(C)NCCCS(=O)(=O)O | C5H13NO3S
